US04668705
1.35 g (36 mMols) of sodium borohydride and then 3.1 g (36 mMols) of lithium bromide were stirred into 60 ml of diethylene glycol dimethyl ether. After stirring for 30 minutes, 20.0 g (57 mMols) of 4-tetradecyloxy-benzoic acid methyl ester were added. The mixture was heated for 3.5 hours to 100° C. and poured in portions onto a mixture of 500 g of ice and 50 ml of concentrated hydrochloric acid, after which the deposit formed was filtered off and stirred with a little methylene chloride. The undissolved fraction was then filtered off and recrystallized from n-hexane. 4-tetradecyloxybenzyl alcohol melting at 73° to 75° C. was obtained in a yield of 12.5 g.

reactant | sodium borohydride | 36 mMols, 1.35 g | [BH4-].[Na+]
reactant | lithium bromide | 36 mMols, 3.1 g | [Br-].[Li+]
reactant | 4-tetradecyloxy-benzoic acid methyl ester | 57 mMols, 20.0 g | COC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C22H36O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | diethylene glycol dimethyl ether | 60 ml | COCCOCCOC | C6H14O3
product | 4-tetradecyloxybenzyl alcohol | C(CCCCCCCCCCCCC)OC1=CC=C(CO)C=C1 | C21H36O2
